US07282501B2
2-(2-Bromo-ethoxy)-6-methoxynaphthalene
To a solution of 6-methoxynaphthalen-2-ol (1.07 g, 6.14 mmol) in DMF (4 mL) were added cesium carbonate (3.11 g, 9.55 mmol) and dibromoethane (2.5 mL, 29 mmol). The mixture was stirred and heated at 55° C. for 48 h. The reaction mixture was cooled, filtered, diluted with EtOAc, and washed with brine (2×30 mL). The organic layer was dried (Na2SO4) and concentrated. The crude product was purified using radial chromatography (2:98 to 25:75 EtOAc:Hex) to give the title compound as a white solid (0.52 g, 30%): 1H NMR (400 MHz, CDCl3) δ 3.61 (t, J=6.1 Hz, 2H), 3.82 (s, 3H), 4.30 (t, J=6.4 Hz, 2H), 7.01-7.08 (m, 4H), 7.56 (dd, J=12.0, 9.0 Hz, 2H).

reactant | 6-methoxynaphthalen-2-ol | 6.14 mmol, 1.07 g | COC=1C=C2C=CC(=CC2=CC1)O | C11H10O2
reactant | cesium carbonate | 9.55 mmol, 3.11 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dibromoethane | 29 mmol, 2.5 mL | BrC(C)Br | C2H4Br2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-(2-Bromo-ethoxy)-6-methoxynaphthalene | 0.52 g, 30% | BrCCOC1=CC2=CC=C(C=C2C=C1)OC | C13H13BrO2
